US07494992B2
Preparation 4: 1-(cyclopentylcarbonyl)piperazine
Piperazine hexahydrate (8.55 g, 44.0 mmol) was dissolved in absolute ethanol (50 ml) and then refluxed for 10 min. Cyclopentanecarbonyl chloride (5.83 g, 44 mmol) was added dropwise at 65° C. and the reaction mixture was refluxed for 30 min and then stirred at room temperature for 18 h. The reaction mixture was cooled, filtered and the filtrate was concentrated in vacuo to give ˜20 ml of solution. The concentrate was cooled and then filtered again. Ethanolic hydrogen chloride was added to the mother liquor, and the reaction mixture was concentrated to give a white solid, which was dissolved in water (15 ml). The solution was basified to pH 14 and the product was extracted with dichloromethane (7×50 ml). The extracts were dried, (Na2SO4) and concentrated to give the title compound as a yellowish residue, which was distilled to give the product (1.28 g, 7.0 mmol, 16%)

reactant | Piperazine hexahydrate | 44.0 mmol, 8.55 g | O.O.O.O.O.O.N1CCNCC1
reactant | Cyclopentanecarbonyl chloride | 44 mmol, 5.83 g | C1(CCCC1)C(=O)Cl | C6H9ClO
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-(cyclopentylcarbonyl)piperazine | ˜20 ml | C1(CCCC1)C(=O)N1CCNCC1 | C10H18N2O
